US07906546B2
A solution of 12 mg (0.02 mmol) of (RS, SR) 4-[5-[(3-bromo-benzenesulfonyl)-(7-chloro-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl)-fluoro-methyl]-[1,3,4]oxadiazol-2-yl}-benzoic acid methyl ester in 0.5 mL of THF was treated with 3 mg (0.08 mmol) of lithium aluminiumhydride and stirred at RT for one hour. The mixture was treated with a mixture of ice cubes and water and extracted twice with dichlormothane. Drying of the combined organic phases over Na2SO4, filtration and evaporation gave 10 mg (86%) of (RS, SR) (4-{5-[(3-bromo-benzenesulfonyl)-(7-chloro-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl)-fluoro-methyl]-[1,3,4]oxadiazol-2-yl}-phenyl)-methanol as a yellow solid, MS: 618 (MH+, 1Br).

reactant | 4-[5-[(3-bromo-benzenesulfonyl)-(7-chloro-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl)-fluoro-methyl]-[1,3,4]oxadiazol-2-yl}-benzoic acid methyl ester | COC(C1=CC=C(C=C1)C=1OC(=NN1)C(F)(C1CC2=C(NC=3C=CC(=CC23)Cl)C1)S(=O)(=O)C1=CC(=CC=C1)Br)=O | C28H20BrClFN3O5S
reactant | lithium aluminiumhydride | 0.08 mmol, 3 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | (4-{5-[(3-bromo-benzenesulfonyl)-(7-chloro-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl)-fluoro-methyl]-[1,3,4]oxadiazol-2-yl}-phenyl)-methanol | BrC=1C=C(C=CC1)S(=O)(=O)C(C1=NN=C(O1)C1=CC=C(C=C1)CO)(F)C1CC2=C(NC=3C=CC(=CC23)Cl)C1 | C27H20BrClFN3O4S
